US04771046
0.63 ml of chloroacetonitrile was added to a solution of 23 mg of metallic sodium in 4 ml of absolute methanol, the mixture was stirred at room temperature for about 30 minutes, then 1.5 g of 3-methoxyiminopyrrolidine hydrochloride were added and the resulting mixture stirred for a further 2 hours. After completion of the reaction, the solvent was distilled off and the concentrate mixed with anhydrous ether. The crystals which separated out were collected by filtration and washed with ether, giving 2.2 g of 2-(3-methoxyiminopyrrolidin-1-yl)-2-iminoethylchloride hydrochloride.

reactant | chloroacetonitrile | 0.63 ml | ClCC#N | C2H2ClN
reactant | sodium | 23 mg | [Na] | Na
reactant | 3-methoxyiminopyrrolidine hydrochloride | 1.5 g | Cl.CON=C1CNCC1
solvent | methanol | 4 ml | CO | CH4O
product | 2-(3-methoxyiminopyrrolidin-1-yl)-2-iminoethylchloride hydrochloride | 2.2 g | Cl.CON=C1CN(CC1)C(CCl)=N | InChI=1S/C7H12ClN3O.ClH/c1-12-10-6-2-3-11(5-6)7(9)4-8;/h9H,2-5H2,1H3;1H
